US07629356B2
N-[(1E)-(3-Bromophenyl)(2-cyanopyridin-3-yl)methylene]-2-methylpropane-2-sulfinamide
Titanium(IV)ethoxide (1 M solution in THF, 18.7 mL) was added to a solution of 3-(3-bromobenzoyl)pyridine-2-carbonitrile (2.680 g, 9.334 mmol) and tert-butylsulfinamide (1.244 g, 10.27 mmol) in anhydrous THF (10 mL) under an atmosphere of argon. The mixture was heated at 50° C. for 70 h. After cooling to room temperature the mixture was diluted with methanol (20 mL) and 100 drops of water was added. The resulting mixture was allowed to stand for about 1 h and then filtered through a pad of sodium sulfate. The filter cake was taken up in saturated aqueous sodium hydrogen carbonate solution and dichloromethane. The mixture was stirred over night, the phases were separated and the aqueous phase was extracted with dichloromethane. The extracts were combined with the filtrate from above, dried over sodium sulfate and evaporated. Purification by column chromatography using a gradient of increasing concentration of acetonitrile in dichloromethane (0-20%) gave 2.52 g (69% yield) of the title compound. 1H NMR (CDCl3) δ 8.81 (d, 1H), 7.76 (m, 2H), 7.68 (m, 1H), 7.62 (dd, 1H), 7.43 (d, 1H), 7.32 (t, 1H), 1.39 (br. s., 9H).

reactant | 3-(3-bromobenzoyl)pyridine-2-carbonitrile | 9.334 mmol, 2.680 g | BrC=1C=C(C(=O)C=2C(=NC=CC2)C#N)C=CC1 | C13H7BrN2O
reactant | tert-butylsulfinamide | 10.27 mmol, 1.244 g | C(C)(C)(C)S(=O)N | C4H11NOS
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | methanol | 20 mL | CO | CH4O
catalyst | water | 100 drops | O | H2O
catalyst | Titanium(IV)ethoxide | 1 M, 18.7 mL | [O-]CC.[Ti+4].[O-]CC.[O-]CC.[O-]CC
product | N-[(1E)-(3-Bromophenyl)(2-cyanopyridin-3-yl)methylene]-2-methylpropane-2-sulfinamide | 2.52 g, 69% yield | BrC=1C=C(C=CC1)/C(=N\S(=O)C(C)(C)C)/C=1C(=NC=CC1)C#N | C17H16BrN3OS
